US08008302B2
Step b) (2R,3S)-2-benzyl-3-hydroxysuccinic acid
Diisopropyl (2S,3R)-2-benzyl-3-hydroxysuccinate (9.76 g; 31.65 mmol; 1.00 eq.) was taken in THF (150 mL), cooled to 0° C. and was treated with KOH (10.65 g; 189.90 mmol; 6.00 eq.) in water (50 mL). The resulting mixture was stirred at RT for 48 h. THF was removed and the residue was taken in water. The aqueous layer was washed with ether (100 mL) and was chilled to 0° C. and cautiously acidified with an aqueous solution of HCl (1 N) until pH 3.8. The solid that separated was collected by filtration to give the title product (single diastereoisomer) as white solid (2.08 g, 29%).

reactant | Diisopropyl (2S,3R)-2-benzyl-3-hydroxysuccinate | 31.65 mmol, 9.76 g, 1.00 eq. | C(C1=CC=CC=C1)[C@H](C(=O)OC(C)C)[C@H](C(=O)OC(C)C)O | C17H24O5
reactant | KOH | 189.90 mmol, 10.65 g, 6.00 eq. | [OH-].[K+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | (2R,3S)-2-benzyl-3-hydroxysuccinic acid | 2.08 g, 29% | C(C1=CC=CC=C1)[C@@H](C(=O)O)[C@@H](C(=O)O)O | C11H12O5
